US06693208B2
A slurry of 3.0 g of (16.0 mmol, 1.1 eq) 10-aminodecanoic acid, 9 ml (18.0 mmol, 1.13 eq) of 2 N aqueous sodium hydroxide and 30 ml of dioxane was added to a white slurry of 3.97 g (20.8 mmol, 1.3 eq) of oligo (3,5-dichlorosalicylate) and 30 ml of dioxane in a 250 mL round bottom flask equipped with a magnetic stir bar and reflux condenser. The reaction mixture was heated to 90° C. for 20 hours (at which time no further change was observed, by HPLC). The reaction mixture was cooled to 25° C. and acidified to pH=1 with 2N aqueous hydrochloric acid. The mixture was concentrated in vacuo (60° C., 50 mm). The resulting solid was recrystallized twice from ethanol-water decolorized with charcoal but was not yet clean. Column chromatography using 5:1 hexanes/ethyl acetate-1% acetic acid as eluant gave one fraction as acid and another as ethyl ester. The ethyl ester was hydrolyzed to the acid using 4 ml of 2N aqueous sodium hydroxide and acidified with 2N aqueous hydrochloric acid. The acid was isolated by filtration. The combined acid portions were triturated with methylene chloride and hexanes to give 1.22 g of N-(3,5-dichlorosalicyloyl)-10-aminodecanoic acid.

reactant | 10-aminodecanoic acid | 16.0 mmol, 3.0 g, 1.1 eq | NCCCCCCCCCC(=O)O | C10H21NO2
reactant | sodium hydroxide | 18.0 mmol, 2 N, 9 ml, 1.13 eq | [OH-].[Na+]
reactant | 3,5-dichlorosalicylate | ClC1=C(C(C(=O)[O-])=CC(=C1)Cl)O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydroxide | 2N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N-(3,5-dichlorosalicyloyl)-10-aminodecanoic acid | 1.22 g | ClC1=C(C(C(=O)NCCCCCCCCCC(=O)O)=CC(=C1)Cl)O | C17H23Cl2NO4
